US08030311B2
Step 26.1: 4-(3-Dimethylamino-prop-1-ynyl)-3-trifluoromethyl-phenylamine
A mixture of dimethyl-[3-(4-nitro-2-trifluoromethyl-phenyl)-prop-2-ynyl]-amine (2.0 g, 7.4 mmol), iron powder (1.65 g, 29.4 mmol, 4 equiv), AcOH (5 mL), H2O (10 mL), and EtOH (40 mL) is stirred for 30 min at 80° C. The reaction mixture is allowed to cool to rt, basified by addition of a 1 M aqueous solution of NH3, and filtered through Celite. The filtrate is partially concentrated and extracted with EtOAc. The organic phase is washed with brine, dried (Na2SO4), filtered and concentrated. The residue is purified by silica gel column chromatography (CH2Cl2/NH3 (2 N in MeOH), 95:5) to provide the title compound as a brown oil: ES-MS: 243.0 [M+H]+; single peak at tR=2.49 min (System 1); Rf=0.10 (CH2Cl2/NH3 (2 N in MeOH), 95:5).

reactant | dimethyl-[3-(4-nitro-2-trifluoromethyl-phenyl)-prop-2-ynyl]-amine | 7.4 mmol, 2.0 g | CN(CC#CC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)C | C12H11F3N2O2
reactant | AcOH | 5 mL | CC(=O)O | C2H4O2
reactant | H2O | 10 mL | O | H2O
reactant | NH3 | N | H3N
catalyst | iron | 29.4 mmol, 1.65 g, 4 equiv | [Fe] | Fe
solvent | EtOH | 40 mL | CCO | C2H6O
product | 4-(3-Dimethylamino-prop-1-ynyl)-3-trifluoromethyl-phenylamine | CN(CC#CC1=C(C=C(C=C1)N)C(F)(F)F)C | C12H13F3N2
